US03947585
The mixture of 0.33 g of 8-chloro-6-(2-chlorophenyl)-1H,4H-pyrazolo[4,3-d](2)benzazepine, 0.141 g of ethyl chloroformate, 0.16 g of pyridine and 10 ml of methylene chloride is stirred at room temperature for 2 hours. It is diluted with chloroform, washed with aqueous sodium bicarbonate, the organic phase separated, dried and evaporated. The residue is taken up in the minimum amount of acetone and the solution neutralized with ethereal hydrogen chloride, to yield the 8-chloro-6-(2-chlorophenyl)-2-ethoxycarbonyl-2H,4H-pyrazolo[4,3-d](2)benzazepine hydrochloride melting at 151°-152°.

reactant | 8-chloro-6-(2-chlorophenyl)-1H,4H-pyrazolo[4,3-d](2)benzazepine | 0.33 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NN3)C=C1 | C17H11Cl2N3
reactant | ethyl chloroformate | 0.141 g | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-6-(2-chlorophenyl)-2-ethoxycarbonyl-2H,4H-pyrazolo[4,3-d](2)benzazepine hydrochloride | Cl.ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CN(N3)C(=O)OCC)C=C1 | InChI=1S/C20H15Cl2N3O2.ClH/c1-2-27-20(26)25-11-12-10-23-19(15-5-3-4-6-17(15)22)16-9-13(21)7-8-14(16)18(12)24-25;/h3-9,11H,2,10H2,1H3;1H
